US06774138B2
Reactants: 2-ethynylpyridine (6.0 mmol, 618 mg), 4-methylcyclohexanone (6.0 mmol, 672 mg); yields 2-[(4-methyl-1-cyclohexen-1-yl)ethynyl]pyridine as a transparent oil (250 mg, 21% overall yield). 1H NMR (CDCl3, 300 MHz) δ 8.57 (m, 1H), 7.59 (m, 1H), 7.39 (m, 1H), 7.20 (m, 1H), 6.30 (m, 1H), 2.22 (m, 3H), 1.72 (m, 3H), 1.25 (m, 1H), 0.99 (m, 3H). MS (EI ionization) 197 (M+).

reactant | 2-ethynylpyridine | 6.0 mmol, 618 mg | C(#C)C1=NC=CC=C1 | C7H5N
reactant | 4-methylcyclohexanone | 6.0 mmol, 672 mg | CC1CCC(CC1)=O | C7H12O
product | 2-[(4-methyl-1-cyclohexen-1-yl)ethynyl]pyridine | CC1CC=C(CC1)C#CC1=NC=CC=C1 | C14H15N
